US08629271B2
b) 2,4-Difluoro-3-(2-hydroxyethyl)benzaldehyde
2,2,6,6-Tetramethylpiperidine (5 mL) was added to a solution of butyllithium (1.6M in hexanes, 19 mL) in THF (25 mL) at −70° C. A solution of 2-(2,6-difluorophenyl)ethanol (example 45, step a) (1.6 g) in THF (25 mL) was added dropwise and the resulting mixture stirred for 2 h. DMF (3.9 mL) was then added and the mixture stirred for 1 h at −70° C. The mixture was then allowed to warm to RT and stirred for 70 h. The reaction was quenched with HCl solution (2M, 50 mL), diluted with ethyl acetate (100 mL) and the layers separated. The aqueous phase was extracted with ethyl acetate (2×50 mL). The combined organics were washed with brine (100 mL), dried over magnesium sulphate, filtered and evaporated. The residue was purified by silica gel chromatography eluting with 4:1 to 2:1 isohexane:ether gradient. The fractions containing product were combined and evaporated. The resulting oil was dissolved in ethyl acetate (50 mL) and washed with HCl solution (2M, 30 mL), brine (30 mL), dried over magnesium sulphate, filtered and evaporated to give the subtitled compound as a clear oil. Yield 1.1 g.

reactant | 2,2,6,6-Tetramethylpiperidine | 5 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | butyllithium | 1.6M, 19 mL | C(CCC)[Li]
reactant | 2-(2,6-difluorophenyl)ethanol | FC1=C(C(=CC=C1)F)CCO | C8H8F2O
reactant | DMF | 3.9 mL | CN(C)C=O | C3H7NO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2,4-Difluoro-3-(2-hydroxyethyl)benzaldehyde | FC1=C(C=O)C=CC(=C1CCO)F | C9H8F2O2
